US06326372B1
Step 1: 3-Amino-3-(3,4-difluorophenyl)propionic Acid
3,4-Difluorobenzaldehyde (7.76 mL, 70.3 mmol), malonic acid (7.28 g, 70.3 mmol), and ammonium acetate (10.79 g, 140 mmol) were combined in absolute ethanol (30 mL) and refluxed under nitrogen for 6 hours. The mixture was cooled and stirred at ambient temperature overnight. A white solid precipitated which was collected by filtration to yield the title compound.

reactant | 3,4-Difluorobenzaldehyde | 70.3 mmol, 7.76 mL | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | malonic acid | 70.3 mmol, 7.28 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 140 mmol, 10.79 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 3-Amino-3-(3,4-difluorophenyl)propionic Acid | NC(CC(=O)O)C1=CC(=C(C=C1)F)F | C9H9F2NO2
